US07008940B1
2,3-Dihydro-5-hydroxy-6,7-dimethyl-1H-indole-1-carbaldehyde
To formic acid (100 mL) was added acetic anhydride (23 mL, 0.24 mol) under ice-cooling, and the mixture was stirred at room temperature for 40 minutes. To this solution was added 2,3-dihydro-6,7-dimethyl-1H-indole-5-ol (20.0 g, 0.12 mol) under ice-cooling, and the mixture was stirred at room temperature for 75 minutes. The reaction mixture was concentrated under reduced pressure, and dissolved in the mixture of chloroform-methanol. To this was added an aqueous solution of sodium bicarbonate solution to neutralize, the organic layer was separated, and the aqueous layer was extracted with chloroform three times. The combined organic layers were washed with saturated brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The solid was washed with diisopropyl ether to obtain 22.0 g of the title compound.

reactant | acetic anhydride | 0.24 mol, 23 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2,3-dihydro-6,7-dimethyl-1H-indole-5-ol | 0.12 mol, 20.0 g | CC1=C(C=C2CCNC2=C1C)O | C10H13NO
solvent | formic acid | 100 mL | C(=O)O | CH2O2
product | 2,3-Dihydro-5-hydroxy-6,7-dimethyl-1H-indole-1-carbaldehyde | 22.0 g, Yield 94% | OC=1C=C2CCN(C2=C(C1C)C)C=O | C11H13NO2
